US07470699B2
Preparation of 4-{6-[6-(2-Hydroxy-ethylsulfanyl)-2-methyl-pyridin-3-yloxy]-5-methyl-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester (Compound C12)
A mixture of 4-[6-(6-chloro-2-methyl-pyridin-3-yloxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (835 mg, 1.98 mmol) and potassium carbonate (305 mg, 2.2 mmol) in 3 mL of 2-mercapto-ethanol was stirred in microwave at 80° C. After 17 hours, mixture was continued to be stirred at 100° C. for 30 minutes and then 120° C. for 30 minutes. Mixture was purified by HPLC and column chromatography (hexane/AcOEt) to give Compound C12 as a white solid (16.4 mg, 2%). 1H NMR (CDCl3, 400 MHz) δ 1.07-1.09 (d, J=6.3 Hz, 6H), 1.68-1.78 (m, 2H), 1.90-1.99 (m, 2H), 2.12 (s, 3H), 2.29 (s, 3H), 3.23-3.25 (t, J=5.1 Hz, 2H), 3.32-3.38 (m, 2H), 3.68-3.71 (m, 2H), 3.91-3.94 (t, J=4.9 Hz, 2H), 4.84-4.90 (m, 1H), 5.24-5.30 (m, 1H), 7.12-7.21 (m, 2H), 8.12 (s, 1H). Exact mass calculated for C22H30N4O5S 462.19, found 463.3 (MH+).

reactant | 4-[6-(6-chloro-2-methyl-pyridin-3-yloxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 1.98 mmol, 835 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC=1C(=NC(=CC1)Cl)C | C20H25ClN4O4
reactant | potassium carbonate | 2.2 mmol, 305 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercapto-ethanol | 3 mL | SCCO | C2H6OS
product | 4-{6-[6-(2-Hydroxy-ethylsulfanyl)-2-methyl-pyridin-3-yloxy]-5-methyl-pyrimidin-4-yloxy}-piperidine-1-carboxylic acid isopropyl ester | 16.4 mg, 2% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC=1C(=NC(=CC1)SCCO)C | C22H30N4O5S
